US06204249B1
4-Chloro-2-(isopropylamino)-1H-benzimidazole
3-Chloro-1,2-phenylenediamine (6.41 g, 44.95 mmol), isopropyl isothiocyanate (5.20 g, 51.6 mmol), 1cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate (25.0 g, 59.02 mmol) and pyridine (300 mL) were used according to general procedure I. The product was recrystallized from 1,4-dioxane afford 5.45 g (58%) of a brownish solid. MS (EI): m/z 210.1 (M+H). Anal. calcd for C10H12ClN3-(0.5 C4H8O2): C, 56.80; H, 6.36; N, 16.56. Found: C, 57.00; H, 6.34; N, 16.69.

reactant | 3-Chloro-1,2-phenylenediamine | 44.95 mmol, 6.41 g | ClC=1C(=C(C=CC1)N)N | C6H7ClN2
reactant | isopropyl isothiocyanate | 51.6 mmol, 5.20 g | C(C)(C)N=C=S | C4H7NS
reactant | 1cyclohexyl-3-(2-morpholinoethyl)carbodiimide metho-p-toluenesulfonate | 59.02 mmol, 25.0 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C[N+]1(CCOCC1)CCN=C=NC2CCCCC2
solvent | pyridine | 300 mL | N1=CC=CC=C1 | C5H5N
product | 4-Chloro-2-(isopropylamino)-1H-benzimidazole | 5.45 g, 58% | ClC1=CC=CC=2NC(=NC21)NC(C)C | C10H12ClN3
